US06521643B1
To a suspension of 2-fluoro-5-(4-methoxypyridin-2-yl)aniline (174 mg), N,N′-bis(tert-butoxycarbonyl)thiourea (265 mg) and diisopropylethylamine (0.417 ml) in dichloromethane (10 ml) was added 1-methyl-2-chloropyridinium iodide (266 mg), and the mixture was stirred for 18 hours. The mixture was diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 30 g, n-hexane:ethyl acetate=3:1) to give N,N′-bis(tert-butoxycarbonyl)-N″-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)guanidine (248 mg).

reactant | 2-fluoro-5-(4-methoxypyridin-2-yl)aniline | 174 mg | FC1=C(N)C=C(C=C1)C1=NC=CC(=C1)OC | C12H11FN2O
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 265 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethylamine | 0.417 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 266 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N,N′-bis(tert-butoxycarbonyl)-N″-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)guanidine | 248 mg | C(C)(C)(C)OC(=O)NC(=NC1=C(C=CC(=C1)C1=NC=CC(=C1)OC)F)NC(=O)OC(C)(C)C | C23H29FN4O5
